US05459137
1-(4-Aminophenyl)-3-acetyl-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine
To a solution of 3.58 g (12.1 mmol) of 1-(4-aminophenyl)-4-methyl-7,8-methylenedioxy-3,4-dihydro-5H-2,3-benzodiazepine in 100 ml of chloroform first 1.68 ml (12.1 mmol) of triethylamine, then under constant ice-cooling and stirring 1.15 ml (12.1 mmol) of acetic anhydride were added. Stirring was continued for additional 2 hours, then the solution was extracted with 3×100 ml of water, the organic layer was dried and evaporated under reduced pressure. The crystalline residue was recrystallized from 40 ml of isopropanol to obtain 3.50 g (85.7%) of the aimed product, m.p. 220°-222° C. After repeated recrystallization the m.p. increased to 223°-225° C.

reactant | 1-(4-aminophenyl)-4-methyl-7,8-methylenedioxy-3,4-dihydro-5H-2,3-benzodiazepine | 12.1 mmol, 3.58 g | NC1=CC=C(C=C1)C1=NNC(CC2=C1C=C1C(=C2)OCO1)C | C17H17N3O2
reactant | chloroform | 12.1 mmol, 100 ml | C(Cl)(Cl)Cl | CHCl3
reactant | acetic anhydride | 12.1 mmol, 1.15 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-(4-Aminophenyl)-3-acetyl-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine | 3.50 g, 85.7% | NC1=CC=C(C=C1)C1=NN(C(CC2=C1C=C1C(=C2)OCO1)C)C(C)=O | C19H19N3O3
